US07307165B2
Synthesis of 6-n-propyl-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonamide
N,N-dimethyl-N′-(6-n-propyl-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonyl)formamidine (0.30 g, 0.83 mmol) was dissolved in dioxane (10.0 ml), and to the solution was added concentrated hydrochloric acid (5.0 ml) and stirred at 60° C. for 2 hours, 80° C. for 2 hours and 90° C. for 2 hours. The reaction mixture was concentrated under reduced pressure. To the residues was added water, and adjusted pH to 3 with aqueous 1N sodium hydroxide solution. The precipitated solid was collected by filtration, and washed with water to give the title compound as white crystals. The yield was 0.24 g (94.3%).

reactant | N,N-dimethyl-N′-(6-n-propyl-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonyl)formamidine | 0.83 mmol, 0.30 g | CN(C=NS(=O)(=O)C1=C(N=C2N1N=C(C=C2)CCC)C(F)(F)F)C | C13H16F3N5O2S
reactant | hydrochloric acid | 5.0 ml | Cl | ClH
solvent | dioxane | 10.0 ml | O1CCOCC1 | C4H8O2
product | 6-n-propyl-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonamide | C(CC)C=1C=CC=2N(N1)C(=C(N2)C(F)(F)F)S(=O)(=O)N | C10H11F3N4O2S
